US09422244B2
N-Ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboxamidine hydrochloride (60 g, 260.08 mmol; isolated from reaction of N-ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboxamidine, synthesized as described in WO 2009/115515, with HCl in isopropanol) was dissolved in 1000 mL dichloromethane, and 4-acetylamino-benzenesulfonyl chloride (60.7 g, 260.08 mmol) was added. Under mechanical stirring, triethylamine (131.6 g, 1300.4 mmol) was added over a period of 20 minutes, and the mixture was stirred overnight at room temperature. The reaction mixture was extracted with water (250 mL) and the organic phase was concentrated under reduced pressure (40° C., 600 mbar). The oily residue was coevaporated twice with 96% ethanol (250 mL) and taken up in 500 mL dichloromethane. The organic phase was extracted with 1N aqueous HCl (75 mL) and subsequently twice with water (200 mL) and evaporated to dryness under reduced pressure to yield 78 g (199.2 mmol, 77%) of N-(4-{[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]sulfamoyl}-phenyl)-acetamide. 1H NMR identical to spectrum obtained from material prepared via novel route (vide supra).

reactant | N-Ethyl-2,3-diaza-spiro[4.4]non-3-ene-2-carboxamidine hydrochloride | 260.08 mmol, 60 g | Cl.C(C)NC(=N)N1CC2(C=N1)CCCC2
reactant | 4-acetylamino-benzenesulfonyl chloride | 260.08 mmol, 60.7 g | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)Cl | C8H8ClNO3S
reactant | triethylamine | 1300.4 mmol, 131.6 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 1000 mL | ClCCl | CH2Cl2
product | N-(4-{[(2,3-diaza-spiro[4.4]non-3-en-2-yl)-ethylamino-methylene]sulfamoyl}-phenyl)-acetamide | 199.2 mmol, 78 g, 77% | C1N(N=CC12CCCC2)C(NCC)=NS(=O)(=O)C2=CC=C(C=C2)NC(C)=O | C18H25N5O3S
